US06417189B1
c. Synthesis of 3,3-dimethyl-1-[2-(6-(3-pyridyl)-hexanoyl)perhydropyridazinyl]pentane-1,2-dione
0.1 g PtO2 was added to a solution of 3,3-dimethyl-1-[2-(6-(3-pyridyl)hex-5 ynoyl)perhydropyridazinyl]pentane-1,2-dione (0.3 g, 0.8 mmol) in 20 ml dry MeOH. The mixture was under hydrogenation at room pressure (1 atm) overnight. The product was obtained as clear oil after filtering the catalyst, concentration and purifying on a silica gel (0.125 g, 41%). Rf=0.18 (EtOAc). 1H NMR (CDCl3, 400 MHz): δ 0.89 (t, 3H, J=7.4); 1.24 (s, 6H); 1.38 (m, 2H); 1.66 (m, 10H); 2.14 (m, 2H); 2.63 (m, 2H); 2.82 (m, 2H); 4.60 (m, 2H); 7.23 (m, 4H). Anal. Calcd. for C22H33N3O3: C, 68.19; H, 8.58; N, 10.84. Found: C, 68.40; H, 8.52; N, 10.62.

reactant | 3,3-dimethyl-1-[2-(6-(3-pyridyl)hex-5 ynoyl)perhydropyridazinyl]pentane-1,2-dione | 0.8 mmol, 0.3 g | CC(C(C(=O)C1N(NCCC1)C(CCCC#CC=1C=NC=CC1)=O)=O)(CC)C | C22H29N3O3
solvent | MeOH | 20 ml | CO | CH4O
catalyst | PtO2 | 0.1 g | O=[Pt]=O
product | 3,3-dimethyl-1-[2-(6-(3-pyridyl)-hexanoyl)perhydropyridazinyl]pentane-1,2-dione | CC(C(C(=O)C1N(NCCC1)C(CCCCCC=1C=NC=CC1)=O)=O)(CC)C | C22H33N3O3
